US04644041
A 3.5% solution of 10 g of poly(isobutylene-co-isoprene) was prepared in 96.5% of a 1:1 mixture of trimethylpentane and CCl4. The solution was purged with N2 and with the temperature adjusted to 75° C., 0.2 g of benzoyl peroxide was added and the solution stirred for 1 hour. After this period 1.0 g of methylmethacrylate was added and the system was stirred for 16 hours under a N2 atmosphere. At the end of 16 hours, 0.3 g of benzoyl peroxide or azobisisobutyronitrile was added and 40 g of methyl methacrylate was added over an hour. The polymerization was continued for 16 hours with constant mechanical stirring under a N2 atmosphere. The reaction mixture was cooled to room temperature and the particles cleaned by successive steps of centrifugation, decanting, and resuspension. The particles were freeze dried to a powder.

reactant | trimethylpentane | CC(CCCC)(C)C | C8H18
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | poly(isobutylene-co-isoprene) | 10 g | CC(=C)C.CC(=C)C=C | InChI=1S/C5H8.C4H8/c1-4-5(2)3;1-4(2)3/h4H,1-2H2,3H3;1H2,2-3H3
